US07417009B2
Xylene (15 g), behenyl acrylate (15 g) octyl methacrylate (3 g) and vinyl benzoate (3 g) are charged to a reactor equipped with a stirrer, a heater, a thermometer and a nitrogen-bubbling duct. The reactor is flushed with nitrogen gas and sealed. The reactor is heated to 60° C. and 2,2′-azobis(2-methyl, ethyl-propionitrile) (0.06 g) is added. The reaction mixture is heated in the closed system at 80° C. for two-four hour periods to provide behenyl acrylate/octyl methacrylate/vinyl benzoate polymer having a number average molecular weight of 47,750 Daltons with polydispersity 4.5. The viscosity of the polymer is 168 cP at 20° C. as a 40% solution in toluene.

reactant | behenyl acrylate | 15 g | C(C=C)(=O)OCCCCCCCCCCCCCCCCCCCCCC | C25H48O2
reactant | vinyl benzoate | 3 g | C(C1=CC=CC=C1)(=O)OC=C | C9H8O2
solvent | Xylene | 15 g | C=1(C(=CC=CC1)C)C | C8H10
product | behenyl acrylate octyl methacrylate vinyl benzoate | C(C=C)(=O)OCCCCCCCCCCCCCCCCCCCCCC.C(C(=C)C)(=O)OCCCCCCCC.C(C1=CC=CC=C1)(=O)OC=C | InChI=1S/C25H48O2.C12H22O2.C9H8O2/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23-24-27-25(26)4-2;1-4-5-6-7-8-9-10-14-12(13)11(2)3;1-2-11-9(10)8-6-4-3-5-7-8/h4H,2-3,5-24H2,1H3;2,4-10H2,1,3H3;2-7H,1H2
